US05359098
5-[6-(4-hydroxypiperidinyl)hexoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by the method of Example 21 from 5-hydroxyflavone, 1-bromo-6-chlorohexane, and 4-hydroxypiperidine: mp 210°-211° C.

reactant | 5-hydroxyflavone | OC1=C2C(C=C(OC2=CC=C1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 5-[6-(4-hydroxypiperidinyl)hexoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride | Cl.OC1CCN(CC1)CCCCCCOC1=CC=CC2=C1C(C=C(O2)C2=CC=CC=C2)=O | InChI=1S/C26H31NO4.ClH/c28-21-13-16-27(17-14-21)15-6-1-2-7-18-30-23-11-8-12-24-26(23)22(29)19-25(31-24)20-9-4-3-5-10-20;/h3-5,8-12,19,21,28H,1-2,6-7,13-18H2;1H
